US08629157B2
Synthesis of (S)-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide
To a solution of (S)-pyrrolidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide; hydrochloride (0.2 g; 0.731 mmol) in N,N-dimethylformamide (4 mL) is added bromomethyl-cyclohexane (0.153 mL; 1.097 mmol), potassium iodide (0.032 mg, 0.197 mmoL), and potassium carbonate (0.505 g; 3.655 mmol). The mixture heated at 60° C. for 7 days. After this time, the mixture is cooled to room temperature, diluted with water and extracted with ethyl acetate. The combined organics are washed with water, 1N hydrochloric acid and brine, dried (Na2SO4), filtered and concentrated in vacuo. The crude material is purified by preparative reverse phase HPLC to afford title compound. ESI m/z 334 [M+H]+

reactant | (S)-pyrrolidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide | C(C)(C)(C)C1=NOC(=C1)NC(=O)[C@H]1NCCC1 | C12H19N3O2
reactant | hydrochloride | 0.731 mmol, 0.2 g | Cl | ClH
reactant | bromomethyl-cyclohexane | 1.097 mmol, 0.153 mL | BrCC1CCCCC1 | C7H13Br
reactant | potassium iodide | 0.032 mg | [I-].[K+]
reactant | potassium carbonate | 3.655 mmol, 0.505 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (S)-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid (3-tert-butyl-isoxazol-5-yl)-amide | C(C)(C)(C)C1=NOC(=C1)NC(=O)[C@H]1N(CCC1)CC1CCCCC1 | C19H31N3O2
